US08071631B2
3,4-Dimethoxy-N-[biphenyl-4-yl]benzenesulfonamide
To a solution of biphenyl-4-amine (338 mg, 2 mmol) in 10 mL of dry pyridine followed by 529 mg of 3,4-dimethoxybenzenesulfonyl chloride. The solution was stirred at room temperature under Argon. After 21 h, the pyridine was removed in vacuo and flashed off with toluene. The residue was partitioned between EtOAc and 1M NaOH. The organic phase was washed with 1M NaOH until no turbidity was observed on rectification of a small sample. The alkaline phase was made acidic (˜pH 3) with 1M HCl and extracted with EtOAc. After drying over Na2SO4, solvent was removed in vacuo. The crude product (0.79 g) was obtained as a glass which slowly crystallized. Addition of hexane caused complete solidification. The solid was taken up in EtOAc (11 mL), diluted with hexane (11 mL) and seeded to give 534 mg of white needles. The product had mp 171-173° C.

reactant | biphenyl-4-amine | 2 mmol, 338 mg | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 529 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3,4-Dimethoxy-N-[biphenyl-4-yl]benzenesulfonamide | 534 mg | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=CC=C(C=C1)C1=CC=CC=C1 | C20H19NO4S
